US09334269B2
HATU (230 mg, 0.605 mmol) and aniline (0.063 mL, 0.691 mmol) was added to a solution of 3-aminobenzoic acid hydrochloride (100 mg, 0.576 mmol) and N,N-diisopropylethylamine (0.217 mL, 1.267 mmol) in 1.5 mL of DMF. The reaction solution was stirred at RT for 3 h. The crude material was purified by reverse-phase preparative HPLC using 0.1% TFA in CH3CN/H2O, gradient 20% to 45%. Desired fractions were collected and the solvents were removed under reduced pressure. The residue was passed through 2 g SCX column and washed by 2M NH3 in MeOH to provide 3-amino-N-phenylbenzamide (42 mg, 0.198 mmol, 34.4% yield) as a light-yellow solid.

reactant | HATU | 0.605 mmol, 230 mg | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
reactant | aniline | 0.691 mmol, 0.063 mL | NC1=CC=CC=C1 | C6H7N
reactant | 3-aminobenzoic acid hydrochloride | 0.576 mmol, 100 mg | Cl.NC=1C=C(C(=O)O)C=CC1
reactant | N,N-diisopropylethylamine | 1.267 mmol, 0.217 mL | C(C)(C)N(C(C)C)CC | C8H19N
solvent | DMF | 1.5 mL | CN(C)C=O | C3H7NO
product | 3-amino-N-phenylbenzamide | 0.198 mmol, 42 mg, 34.4% yield | NC=1C=C(C(=O)NC2=CC=CC=C2)C=CC1 | C13H12N2O
